US07449477B2
3-(4-Nitro-phenyl)-propionaldehyde
Add 1-iodo-4-nitrobenzene (100 g, 400 mmol), allyl alcohol (40 mL, 590 mmol), sodium bicarbonate (80 g, 940 mmol), palladium acetate (4.5 g, 0.05 mmol), tetra-N-butylammonium chloride (110 g, 390 mmol) and dimethylformamide (500 mL) to a 2 L flask and stir. Degas the reaction by pump purging with nitrogen, then heat to 35° C. for 30 hours. Cool the reaction to 0° C. and add methyl tert-butyl ether and water. Stir for 30 minutes then filter over Hyflo Super Cel®. Separate the layers and add tetrahydrofuran to the organic layer and wash with lithium chloride (5% aqueous) and brine. Dry the organic phase over MgSO4, filter over silica gel and concentrate under reduced pressure to give an oily residue. The title compound was used without purification. 1H NMR (CDCl3, 500.0 MHz): δ 9.81-9.85 (m, 1H), 8.10-8.18 (m, 2H), 7.34-7.40 (m, 2H), 3.00-3.10 (m, 2H), 2.80-3.10 (m, 2H).

reactant | 1-iodo-4-nitrobenzene | 400 mmol, 100 g | IC1=CC=C(C=C1)[N+](=O)[O-] | C6H4INO2
reactant | allyl alcohol | 590 mmol, 40 mL | C(C=C)O | C3H6O
reactant | sodium bicarbonate | 940 mmol, 80 g | C([O-])(O)=O.[Na+]
reactant | dimethylformamide | 500 mL | CN(C=O)C | C3H7NO
catalyst | tetra-N-butylammonium chloride | 390 mmol, 110 g | CCCC[N+](CCCC)(CCCC)CCCC.[Cl-]
catalyst | palladium acetate | 0.05 mmol, 4.5 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | O | H2O
solvent | methyl tert-butyl ether | C(C)(C)(C)OC | C5H12O
product | 3-(4-Nitro-phenyl)-propionaldehyde | [N+](=O)([O-])C1=CC=C(C=C1)CCC=O | C9H9NO3
